US07622463B2
Method L: 4-(9-cyclopentyl-6,7,8,9-tetrahydro-5,7,7-trimethyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylthio)-benzoic acid
A solution of 2-Chloro-9-cyclopentyl-8,9-dihydro-5,7,7-trimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one (100 mg, 0.324 mmol) and 4-mercaptobenzoic acid (50 mg, 0.324 mmol) in acetonitrile (5 mL) was heated under reflux for 4 hours. Additional 4-mercaptobenzoic acid (50 mg, 0.324 mmol) was added and the reaction mixture was heated under reflux for 16 hours. After cooling, the crude reaction mixture was filtered through Celite and washed with acetonitrile. The crude product was purified by column chromatography (0%-10% MeOH: CH2Cl2) and triturated with MeOH to give the title compound (37 mg, 27% yield) as a white solid. NMR DMSO D6 1.03 (6H, s), 1.20-1.38 (6H, m), 1.42-1.53 (2H, m), 3.17 (3H, s), 3.27 (2H, s), 4.47 (1H, dt), 7.72 (2H, dd), 7.99 (2H, dd), 8.02 (1H, s); MS (ES+) 427, (ES−) 425.

reactant | 2-Chloro-9-cyclopentyl-8,9-dihydro-5,7,7-trimethyl-5H-pyrimido[4,5-b][1,4]diazepin-6(7H)-one | 0.324 mmol, 100 mg | ClC=1N=CC2=C(N(CC(C(N2C)=O)(C)C)C2CCCC2)N1 | C15H21ClN4O
reactant | 4-mercaptobenzoic acid | 0.324 mmol, 50 mg | SC1=CC=C(C(=O)O)C=C1 | C7H6O2S
reactant | 4-mercaptobenzoic acid | 0.324 mmol, 50 mg | SC1=CC=C(C(=O)O)C=C1 | C7H6O2S
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 4-(9-cyclopentyl-6,7,8,9-tetrahydro-5,7,7-trimethyl-6-oxo-5H-pyrimido[4,5-b][1,4]diazepin-2-ylthio)-benzoic acid | 37 mg, 27% yield | C1(CCCC1)N1C2=C(N(C(C(C1)(C)C)=O)C)C=NC(=N2)SC2=CC=C(C(=O)O)C=C2 | C22H26N4O3S
